US07807672B2
To a solution of 1-benzyloxy-2-bromo-4-nitrobenzene (50 mg, 0.16 mmol) in ethanol (5 mL) and H2O (0.5 mL) was added iron (134 mg, 2.43 mmol) and one drop of concentrated HCl. The mixture was refluxed for 6 hrs and filtrated. The filtrate was diluted with ethyl acetate, washed with saturated sodium bicarbonated solution, dried over sodium sulfate and concentrated to afford crude 4-amino-1-benzyloxy-2-bromobenzene.

reactant | 1-benzyloxy-2-bromo-4-nitrobenzene | 0.16 mmol, 50 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C13H10BrNO3
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | H2O | 0.5 mL | O | H2O
catalyst | HCl | one drop | Cl | ClH
catalyst | iron | 2.43 mmol, 134 mg | [Fe] | Fe
product | 4-amino-1-benzyloxy-2-bromobenzene | NC1=CC(=C(C=C1)OCC1=CC=CC=C1)Br | C13H12BrNO
